US06955890B2
As noted above, in bacteria and fungi, phosphomethylpyrimidine kinase; (EC 2.7.4.7) catalyzes the reaction of ATP+4-amino-2-methyl-5-phosphomethylpyrimidine to produce ADP+4-amino-2-methyl-5-diphosphomethylpyrimidine; thiamine-phosphate diphosphorylase; (EC 2.5.1.3) catalyzes the reaction of 2-methyl-4-amino-5-hydroxymethylpyrimidine diphosphate+4-methyl-5-(2-phosphono-oxyethyl)thiazole to produce diphosphate+thiamine monophosphate; (EC 3.1.3.-) catalyzes the reaction of thiamine monophosphate to produce thiamine. The present inventor has first recognized the importance of this distinction in providing a target for inhibition of pathogenic microorganisms.

reactant | phosphomethylpyrimidine | P(=O)(=O)CC1=NC=CC=N1 | C5H5N2O2P
reactant | ATP 4-amino-2-methyl-5-phosphomethylpyrimidine | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.NC1=NC(=NC=C1CP(=O)=O)C
product | ADP 4-amino-2-methyl-5-diphosphomethylpyrimidine | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.NC1=NC(=NC=C1CP(=O)(O)OP(=O)(O)O)C | InChI=1S/C10H15N5O10P2.C6H11N3O6P2/c11-8-5-9(13-2-12-8)15(3-14-5)10-7(17)6(16)4(24-10)1-23-27(21,22)25-26(18,19)20;1-4-8-2-5(6(7)9-4)3-16(10,11)15-17(12,13)14/h2-4,6-7,10,16-17H,1H2,(H,21,22)(H2,11,12,13)(H2,18,19,20);2H,3H2,1H3,(H,10,11)(H2,7,8,9)(H2,12,13,14)/t4-,6-,7-,10-;/m1./s1
